US07541736B2
5.0 g of 2-(2′-azido-phenyl)-thiophene (B′) was dissolved in 100 ml of ortho-dichlorobenzene and the solution was refluxed at 180° C. for 12 hours. After the reaction was completed, the resulting solution was dried and purified by column chromatography using toluene. Finally, 3.12 g (yield: 77%) of 4H-thieno[3,2-b]indole (C′) was obtained.

reactant | 2-(2′-azido-phenyl)-thiophene | 5.0 g | N(=[N+]=[N-])C1=C(C=CC=C1)C=1SC=CC1 | C10H7N3S
solvent | ortho-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4H-thieno[3,2-b]indole | 3.12 g, yield: 77% | S1C=CC=2NC=3C=CC=CC3C21 | C10H7NS
